US06900243B2
b) 3-(5-Chloro-2-nitrophenoxy)-N-methyl-1-hexanamine oxalate
[3-(5-chloro-2-nitrophenoxy)hexyl]methylcarbamic acid, 1,1-dimethylethyl ester (130 mg, 0.336 mmol) was dissolved in 4M hydrogen chloride in dioxane (10 ml). The resulting solution was stirred at room temperature for 3 h, then diluted with sodium bicarbonate solution containing ammonia and extracted three times with dichloromethane. The combined organic fractions were washed with brine then dried over magnesium sulphate. The solvent was evaporated and the residue dissolved in ethanol. To this solution was added oxalic acid in ethanol and the solvent evaporated. The residue was recrystallised from ethanol to give 90 mg (71%) of the title compound as a white solid.

reactant | [3-(5-chloro-2-nitrophenoxy)hexyl]methylcarbamic acid, 1,1-dimethylethyl ester | 0.336 mmol, 130 mg | ClC=1C=CC(=C(OC(CCN(C(OC(C)(C)C)=O)C)CCC)C1)[N+](=O)[O-] | C18H27ClN2O5
reactant | ammonia | N | H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrogen chloride | 4M | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-(5-Chloro-2-nitrophenoxy)-N-methyl-1-hexanamine oxalate | 90 mg, 71% | C(C(=O)O)(=O)O.ClC=1C=CC(=C(OC(CCNC)CCC)C1)[N+](=O)[O-] | InChI=1S/C13H19ClN2O3.C2H2O4/c1-3-4-11(7-8-15-2)19-13-9-10(14)5-6-12(13)16(17)18;3-1(4)2(5)6/h5-6,9,11,15H,3-4,7-8H2,1-2H3;(H,3,4)(H,5,6)
